US05523278
Preparation of Methyl 2-[(6-chloro-5-nitro-1,2-benzisoxazol-3-yl)oxy]propionate
Nitric acid (70%, 3.0 mL, 47 mmol) is slowly added to a mixture of methyl 2-[(6-chloro-1,2-benzisoxazol-3-yl)oxy]propionate (6.0 g, 23.5 mmol) in concentrated sulfuric acid (50 mL) while maintaining the temperature below 10° C. The reaction mixture is stirred for 1 hour on an ice/water bath and poured onto ice. The resultant aqueous mixture is diluted with ether, stirred for several minutes and the ether is allowed to evaporate overnight. The resultant mixture is filtered to obtain a solid which is dissolved in methylene chloride. The methylene chloride solution is dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a solid which is recrystallized from an ether/hexanes solution to give the title product as a solid, mp 98°-101° C.

reactant | Nitric acid | 47 mmol, 3.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | methyl 2-[(6-chloro-1,2-benzisoxazol-3-yl)oxy]propionate | 23.5 mmol, 6.0 g | ClC1=CC2=C(C(=NO2)OC(C(=O)OC)C)C=C1 | C11H10ClNO4
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2-[(6-chloro-5-nitro-1,2-benzisoxazol-3-yl)oxy]propionate | ClC1=CC2=C(C(=NO2)OC(C(=O)OC)C)C=C1[N+](=O)[O-] | C11H9ClN2O6
